US08133909B2
(3,4-Dimethyl-phenyl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine
To a suspension of (6-trifluoromethyl-pyridin-3-yl)-acetic acid (257 mg, 1.25 mmol), 3,4-dimethylaniline (167 mg, 1.38 mmol) and 1-hydroxybenzotriazole in dichloromethane (2 mL) was added under a nitrogen atmosphere 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (264 mg, 1.37 mmol) and N,N-diisopropyl ethyl amine (322 μl, 1.88 mmol). After stirring for 3 h at ambient temperature, the reaction mixture was concentrated and a solution of borane-tetrahydrofuran complex (1 M in THF, 5 mL, 5 mmol) was added and the reaction mixture was stirred for 18 h at 60° C. A further portion of the borane-tetrahydrofuran complex (1 M in THF, 5 mL, 5 mmol) was added and the reaction mixture was stirred for 4 h at 80° C. An aqueous solution of hydrochloric acid (1 M, 2 mL) was carefully added and stirring was continued for 15 min. at reflux. After cooling it was diluted with ethyl acetate (15 mL) and washed with aqueous Na2CO3 (saturated, 15 mL). The aqueous layer was extracted with EtOAc (15 mL) and the combined organic layers dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 60:40) afforded the title compound (218 mg, 64%) as a light yellow oil. MS m/e: 295.2 [M+H]+.

reactant | (6-trifluoromethyl-pyridin-3-yl)-acetic acid | 1.25 mmol, 257 mg | FC(C1=CC=C(C=N1)CC(=O)O)(F)F | C8H6F3NO2
reactant | 3,4-dimethylaniline | 1.38 mmol, 167 mg | CC=1C=C(N)C=CC1C | C8H11N
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.37 mmol, 264 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropyl ethyl amine | 1.88 mmol, 322 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | borane tetrahydrofuran | 5 mmol, 1 M, 5 mL | B.O1CCCC1
reactant | borane tetrahydrofuran | 5 mmol, 1 M, 5 mL | B.O1CCCC1
reactant | hydrochloric acid | 1 M, 2 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (3,4-Dimethyl-phenyl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine | 218 mg, 64% | CC=1C=C(C=CC1C)NCCC=1C=NC(=CC1)C(F)(F)F | C16H17F3N2
